US08217192B2
30.2 g (180.5 mmol) of the triene carboxylic acid obtained in the above-mentioned Example B2(1) was dissolved in 90 ml of heptane and 12 ml of dimethylformamide (DMF), and 14.5 ml (1.1 eq) of thionyl chloride was added dropwise thereto by spending 1 hour, while stirring under ice-cooling. After completion of the dropwise addition and subsequent 1 hour of stirring, separation of liquid was carried out by adding 60 ml of water. A heptane solution of the thus obtained acid chloride was added dropwise to a mixture of 60 ml of toluene, 21.5 ml (1.2 eq) of isobutylamine and 30.2 ml (1.2 eq) of triethylamine, by spending 2 hours under ice-cooling, and after completion of the dropwise addition, stirring was carried out at room temperature for 2 hours. The organic layer was separated by adding 120 ml of water, and the organic layer was washed with 120 ml of 0.1 N NaOH aqueous solution and then washed twice with 120 ml of water. By subjecting the thus obtained organic layer to solvent evaporation under a reduced pressure, 35.3 g of the target spilanthol (yield 88%)

reactant | thionyl chloride | 14.5 ml, 1.1 eq | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | isobutylamine | 21.5 ml, 1.2 eq | C(C(C)C)N | C4H11N
reactant | triethylamine | 30.2 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | heptane | 90 ml | CCCCCCC | C7H16
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | spilanthol | yield 88% | C/C=C/C=C\CC/C=C/C(=O)NCC(C)C | C14H23NO
